US07351719B2
Z21b) 1-(2-diethylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-6-ylamine
1.1 mL 6 M aqueous NaOH solution was added to a solution of 0.75 g (2.184 mmol) of N-[1-(2-diethylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-6-yl]-2,2,2-trifluoro-acetamide in 5 mL MeOH at 0° C. and the mixture was stirred for 15 minutes at 0° C. and for 1 hour at RT. The reaction mixture was evaporated down i. vac., sat. aqueous sodium bicarbonate solution was added and the mixture was exhaustively extracted with EtOAc. The combined org. extracts were dried over magnesium sulphate, evaporated down i. vac. and the residue was purified by column chromatography (silica gel, dichloromethane/MeOH/conc. aqueous ammonia 90:10:1).

reactant | NaOH | 6 M, 1.1 mL | [OH-].[Na+]
reactant | N-[1-(2-diethylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-6-yl]-2,2,2-trifluoro-acetamide | 2.184 mmol, 0.75 g | C(C)N(CCN1CCCC2=CC(=CC=C12)NC(C(F)(F)F)=O)CC | C17H24F3N3O
solvent | MeOH | 5 mL | CO | CH4O
product | 1-(2-diethylamino-ethyl)-1,2,3,4-tetrahydro-quinolin-6-ylamine | C(C)N(CCN1CCCC2=CC(=CC=C12)N)CC | C15H25N3
